US07361671B2
A solution of (4-cyanomethyl-2,5-dimethyl-thiophen-3-yl)-acetonitrile (1.90 g, 10.0 mmol) and 2-amino-3,4,6-trifluoro-benzenethiol hydrochloride (2.16 g, 10.0 mmol) in EtOH (22 mL) is heated to reflux for 44 h. After cooling to room temperature, the mixture is concentrated in vacuo and purified by flash chromatography (silica gel, 10-30% ethyl acetate in heptane). Further purification by recrystallization with ethyl acetate and heptane gave [2,5-dimethyl-4-(4,5,7-trifluoro-benzothiazol-2-ylmethyl)-thiophen-3-yl]-acetonitrile (1.1 g, 31.2%) as a white powder: mp 145-146° C.; Rf 0.54 (30% ethyl acetate in heptane); 1H NMR (CDCl3, 300 MHz) δ 6.95-7.08 (m, 1 H), 4.36 (s, 2 H), 3.59 (s, 2 H), 2.43 (s, 3 H), 2.41 (s, 3 H).

reactant | (4-cyanomethyl-2,5-dimethyl-thiophen-3-yl)-acetonitrile | 10.0 mmol, 1.90 g | C(#N)CC=1C(=C(SC1C)C)CC#N | C10H10N2S
reactant | 2-amino-3,4,6-trifluoro-benzenethiol hydrochloride | 10.0 mmol, 2.16 g | Cl.NC1=C(C(=CC(=C1F)F)F)S
solvent | EtOH | 22 mL | CCO | C2H6O
product | [2,5-dimethyl-4-(4,5,7-trifluoro-benzothiazol-2-ylmethyl)-thiophen-3-yl]-acetonitrile | 1.1 g, 31.2% | CC=1SC(=C(C1CC#N)CC=1SC2=C(N1)C(=C(C=C2F)F)F)C | C16H11F3N2S2
